US09302989B2
N-(6-{[(3S)-tetrahydrofuran-3-ylmethyl]carbamoyl}pyridazin-3-yl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting (S)-(tetrahydrofuran-3-yl)methamine for 3-phenylpropan-1-amine and 6-(isoindoline-2-carboxamido)pyridazine-3-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ 9.94 (s, 1H), 9.12 (t, J=6.1 Hz, 1H), 8.31 (d, J=9.3 Hz, 1H), 8.11 (d, J=9.3 Hz, 1H), 7.41-7.28 (m, 4H), 4.89 (s, 4H), 3.80-3.55 (m, 3H), 3.50 (dd, J=8.5, 5.2 Hz, 1H), 3.37-3.31 (m, 2H), 2.63-2.51 (m, 1H), 2.01-1.85 (m, 1H), 1.71-1.55 (m, 1H); MS (ESI(+)) m/e 368 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 6-(isoindoline-2-carboxamido)pyridazine-3-carboxylic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(N=N1)C(=O)O | C14H12N4O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-(6-{[(3S)-tetrahydrofuran-3-ylmethyl]carbamoyl}pyridazin-3-yl)-1,3-dihydro-2H-isoindole-2-carboxamide | O1C[C@@H](CC1)CNC(=O)C1=CC=C(N=N1)NC(=O)N1CC2=CC=CC=C2C1 | C19H21N5O3
